US04394515
3-Bromo-10,11-dihydrodibenzo[b,f]thiepin
10.55 G. 3,11-dibromo-10,11-dihydrodibenzo[b,f]thiepin is suspended in 150 cc. sulfolane and gradually, in portions, 3.5 g. sodium borohydride is added. When the foaming has subsided, water is added and the mixture extracted four times with ether, the combined extracts are washed several times with water, dried and evaporated to dryness, and the residual oil chromatographed on silica gel. On elution with 10% benzene in hexane, 3.31 g. of pure material as a white solid is obtained, m.p. 69°-71° C.

reactant | 3,11-dibromo-10,11-dihydrodibenzo[b,f]thiepin | BrC=1C=CC2=C(SC3=C(CC2Br)C=CC=C3)C1 | C14H10Br2S
reactant | sulfolane | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | sodium borohydride | [BH4-].[Na+]
solvent | water | O | H2O
product | 3-Bromo-10,11-dihydrodibenzo[b,f]thiepin | BrC=1C=CC2=C(SC3=C(CC2)C=CC=C3)C1 | C14H11BrS
